US07230023B2
(1) 2-Bromo-1,4-benzenedimethanol
Crushed calcium chloride (14.55 g, 131.1 mmol) was added over a period of 20 minutes to a solution of sodium borohydride (6.61 g, 174.8 mmol) in ethanol (150 ml) with stirring at 0° C., and then a solution of dimethyl 2-bromoterephthalate (described in J. Med. Chem., 13, 1235 (1970); 11.94 g, 43.7 mmol) in ethanol (20 ml) was added thereto. After the mixture was stirred at the same temperature for 30 minutes, sodium borohydride (5.3 g, 140 mmol) and calcium chloride (1 g, 9.0 mmol) were further added thereto. The resulting mixture was stirred for 40 minutes, and a 2N aqueous solution of hydrochloric acid (250 ml) was added thereto. The product was extracted with ethyl acetate, and the organic layer was washed with a saturated aqueous solution of sodium chloride. The extract was concentrated under reduced pressure, and a solid residue was obtained. The residue was washed with a small amount of ethyl acetate to afford the title compound (7.98 g, 84% yield) as a colorless solid (mp. title compound (7.98 g, 84% yield) as a colorless solid (mp. 104° C.)

reactant | calcium chloride | 131.1 mmol, 14.55 g | [Cl-].[Ca+2].[Cl-]
reactant | sodium borohydride | 174.8 mmol, 6.61 g | [BH4-].[Na+]
reactant | dimethyl 2-bromoterephthalate | 43.7 mmol, 11.94 g | BrC1=C(C(=O)OC)C=CC(=C1)C(=O)OC | C10H9BrO4
reactant | sodium borohydride | 140 mmol, 5.3 g | [BH4-].[Na+]
reactant | calcium chloride | 9.0 mmol, 1 g | [Cl-].[Ca+2].[Cl-]
reactant | hydrochloric acid | 250 ml | Cl | ClH
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-Bromo-1,4-benzenedimethanol | 7.98 g, 84% yield | BrC1=C(C=CC(=C1)CO)CO | C8H9BrO2
